US04175189
10 G. of 2,4-diamino-6-[3,6-dihydro-1(2H)-pyridyl]pyrimidine-3-oxide are suspended in 150 ml. of methylene chloride and 20 ml. of triethylamine. The suspension is cooled to 5° C. and 28 g. of chloroformic acid octyl ester are added dropwise while stirring. The mixture is cooled for 30 minutes and then stirred at room temperature for 1 hour. The mixture is extracted with methylene chloride, washed with water, dried over magnesium sulfate and evaporated under reduced pressure. The residue is recrystallized from methylene chloride/ethanol, there being obtained dioctyl 6-[3,6-dihydro-1(2H)-pyridyl]-2,4-pyrimidine-dicarbamate-3-oxide, having a melting point of 64° C.

reactant | 2,4-diamino-6-[3,6-dihydro-1(2H)-pyridyl]pyrimidine-3-oxide | NC1=NC(=CC(=[N+]1[O-])N)N1CCC=CC1 | C9H13N5O
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | chloroformic acid octyl ester | C(CCCCCCC)OC(=O)Cl | C9H17ClO2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | dioctyl 6-[3,6-dihydro-1(2H)-pyridyl]-2,4-pyrimidine-dicarbamate-3-oxide | N1(CCC=CC1)C1=CC(=[N+](C(=N1)NC(=O)OCCCCCCCC)[O-])NC(=O)OCCCCCCCC | C27H45N5O5
